US09260455B2
Step 1. Synthesis of N-[(4aR,6R,8aS)-6-(chloromethyl)-8a-(2,4-difluorophenyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C21)
Thionyl chloride (10.4 mL, 143 mmol) was added to a solution of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (P1) (2.0 g, 4.8 mmol) in toluene (68 mL), and the reaction mixture was heated at 80° C. for 18 hours. After cooling to room temperature, it was concentrated in vacuo and azeotroped three times with dichloromethane. The residue was dissolved in dichloromethane, washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. Two purifications using silica gel chromatography (Gradient: 0% to 100% ethyl acetate in heptane) provided the product as an off-white solid. Yield: 1.88 g, 4.30 mmol, 90%. LCMS m/z 437.1 [M+H+]. 1H NMR (400 MHz, CD3OD) δ 8.08-8.12 (m, 2H), 7.59-7.65 (m, 1H), 7.46-7.55 (m, 3H), 7.05-7.17 (m, 2H), 4.18 (dd, J=12.2, 1.3 Hz, 1H), 4.01 (d, J=12.3 Hz, 1H), 3.91-3.98 (m, 1H), 3.61-3.69 (m, 2H), 3.26-3.3 (m, 1H, assumed; partially obscured by solvent peak), 3.07 (br dd, J=13.3, 3.7 Hz, 1H), 2.91 (br dd, J=13.3, 2.5 Hz, 1H), 1.86-1.93 (m, 2H).

reactant | Thionyl chloride | 143 mmol, 10.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 4.8 mmol, 2.0 g | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)CO)NC(C2=CC=CC=C2)=O | C21H20F2N2O3S
solvent | toluene | 68 mL | C1(=CC=CC=C1)C | C7H8
product | N-[(4aR,6R,8aS)-6-(chloromethyl)-8a-(2,4-difluorophenyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | ClC[C@H]1C[C@@H]2[C@@](N=C(SC2)NC(C2=CC=CC=C2)=O)(CO1)C1=C(C=C(C=C1)F)F | C21H19ClF2N2O2S
